US08378095B2
To a stirred suspension of 2-(2,6-difluorophenyl)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide (0.025 g, 0.065 mmol) in DCE (2 mL) under an N2 atmosphere at room temperature was added formaldehyde 37% solution (10 uL, 0.12 mmol) followed by sodium triacetoxyborohydride (0.066 g, 0.31 mmol) and the resulting mixture stirred at room temperature for 2 hours. The reaction mixture was diluted with DCM and washed with saturated sodium bicarbonate solution. The aqueous phase was extracted with DCM and the combined organic phases dried over MgSO4 and the solvent removed in vacuo to afford 2-(2,6-difluorophenyl)-5-(4-(4-methylpiperazin-1-yl)phenyl)oxazole-4-carboxamide (0.019 g, 0.048 mmol, 72%) as a white solid. 1H NMR (CDCl3) 2.36 (3H, s), 2.57 (4H, t), 3.34 (4H, t), 5.49 (1H, br. s), 6.97 (2H, d), 7.07 (2H, t), 7.19 (1H, br. s), 7.45 (1H, m), 8.31 (2H, d). LCMS (2) Rt: 2.75 min; m/z (ES+) 399.

reactant | 2-(2,6-difluorophenyl)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide | 0.065 mmol, 0.025 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)N1CCNCC1 | C20H18F2N4O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.31 mmol, 0.066 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2,6-difluorophenyl)-5-(4-(4-methylpiperazin-1-yl)phenyl)oxazole-4-carboxamide | 0.048 mmol, 0.019 g, 72% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)N1CCN(CC1)C | C21H20F2N4O2
